US08809377B2
(E)-2-Cyano-N-(1-(4-hydroxyphenyl)butyl)-3-(1H-imidazol-2-yl)acrylamide (11)
(E)-2-cyano-3-(1H-imidazol-2-yl)-N-(1-(4-(methoxymethoxy)phenyl)butyl)acrylamide (14.8 mg, 0.041 mmol) was dissolved into HCl/MeOH (1.25 M, 2 mL). This solution was stirred at room temperature for 18 hours. TLC showed a single product. The mixture was partitioned between aqueous sodium bicarbonate and ethyl acetate. The separated organic layer was washed with sat. brine and dried with sodium sulfate and concentrated to give a light amber solid (9 mg) as crude product. The crude material was recrystallized from ethyl acetate/hexanes to afford the titled compound as a light yellow solid (6 mg) in 46% yield. 1H NMR (500 MHz, CDCl3/CD3OD) δ 7.84 (m, 1H), 7.28 (m, 1H), 7.18 (s, 1H), 6.99 (d, J=6.8, 2H), 6.82 (d, J=7.8, 2H), 3.73 (m, 2H), 1.53 (m, 2H), 1.30 (m, 2H), 0.88 (t, J=7.1, 3H). Mass spec ES+, m/z=311.1 (m+H+).

reactant | (E)-2-cyano-3-(1H-imidazol-2-yl)-N-(1-(4-(methoxymethoxy)phenyl)butyl)acrylamide | 0.041 mmol, 14.8 mg | C(#N)/C(/C(=O)NC(CCC)C1=CC=C(C=C1)OCOC)=C\C=1NC=CN1 | C19H22N4O3
reactant | HCl MeOH | 1.25 M, 2 mL | Cl.CO
product | (E)-2-Cyano-N-(1-(4-hydroxyphenyl)butyl)-3-(1H-imidazol-2-yl)acrylamide | 9 mg, 46% yield | C(#N)/C(/C(=O)NC(CCC)C1=CC=C(C=C1)O)=C\C=1NC=CN1 | C17H18N4O2
